US07253194B2
4-Amino-5-(1H-imidazol-4-yl)-pent-2-enoic acid ethyl ester (28)
A representative procedure is as follows. 4-tert-Butoxycarbonylamino-5-(1-trityl-1H-imidazol-4-yl)-pent-2-enoic acid ethyl ester (100 mg, 0.181 mmol) was stirred with TFA (5 mL) overnight under an atmosphere of argon. The TFA was removed and the residue triturated with Et2O. The remaining solid was subject to preparative reverse phase HPLC (30% B to 100% B over 20 min) to yield after lyophilization a gum (20 mg, 53%). 1H NMR (300 MHz, d6-DMSO) δ 1.19 (3H, t, J=7.02), 3.19 (2H, br s), 4.12 (2H, q, J=7.02), 4.33 (1H, m), 6.09 (1H, d, J=15.87), 6.76 (1H, dd, J=7.14, 15.87), 7.49 (1H, br s), 9.01 (1H, br s). 13C NMR (d6-DMSO) δ 164.76, 141.83, 134.64, 127.39, 125.08, 118.09, 60.58, 50.03, 27.57, 14.06.

reactant | 4-tert-Butoxycarbonylamino-5-(1-trityl-1H-imidazol-4-yl)-pent-2-enoic acid ethyl ester | 0.181 mmol, 100 mg | C(C)OC(C=CC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C34H37N3O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Amino-5-(1H-imidazol-4-yl)-pent-2-enoic acid ethyl ester | 20 mg, 53% | C(C)OC(C=CC(CC=1N=CNC1)N)=O | C10H15N3O2
